US07034039B2
Tert-butyl(6-acetyl-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.13 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction was concentrated under reduced pressure, and the precipitated crystals were recrystallized from methanol-diisopropyl ether to give 6-acetyl-3-(aminomethyl)-4-butoxy-2-isobutyl-1(2H)-isoquinolinone hydrochloride (0.10 g, 90.9%) as crystals.

reactant | Tert-butyl(6-acetyl-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 0.3 mmol, 0.13 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C(C)=O)=O)CC(C)C)=O | C25H36N2O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 6-acetyl-3-(aminomethyl)-4-butoxy-2-isobutyl-1(2H)-isoquinolinone hydrochloride | 0.10 g, 90.9% | Cl.C(C)(=O)C=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CN)OCCCC | InChI=1S/C20H28N2O3.ClH/c1-5-6-9-25-19-17-10-15(14(4)23)7-8-16(17)20(24)22(12-13(2)3)18(19)11-21;/h7-8,10,13H,5-6,9,11-12,21H2,1-4H3;1H
